US04450169
0.11 g of 4-dimethylamino-pyridine and 2 g of dicyclohexylcarbodiimide was added to a solution of 2.04 g of (1R,3S) 2,2-dimethyl-3-[(dihydro-2-oxo-3-(2H)-thienylidene)-methyl]-cyclopropane-1-carboxylic acid[described in French Pat. No. 70-21682] in 20 ml of methylene chloride and the mixture was stirred at 20° C. for 15 minutes. A solution of 1.7 g of (2-phenoxy-4-thiazolyl)-methanol in 10 ml of methylene chloride was added dropwise to the mixture which was stirred at 20° C. for 17 hours and was filtered. The organic phase of the filtrate was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-2 cyclohexane-ethyl acetate mixture to obtain 2.44 g of (2-phenoxy-4-thiazolyl)-methyl (1R,3S) 2,2-dimethyl-3-[(dihydro-2-oxo-3-(2H)-thienylidene)-methyl]-cyclopropane-1-carboxylate melting at 78° C.

reactant | dicyclohexylcarbodiimide | 2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1R,3S) 2,2-dimethyl-3-[(dihydro-2-oxo-3-(2H)-thienylidene)-methyl]-cyclopropane-1-carboxylic acid | 2.04 g | CC1([C@@H]([C@@H]1C=C1C(SCC1)=O)C(=O)O)C | C11H14O3S
reactant | (2-phenoxy-4-thiazolyl)-methanol | 1.7 g | O(C1=CC=CC=C1)C=1SC=C(N1)CO | C10H9NO2S
catalyst | 4-dimethylamino-pyridine | 0.11 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2-phenoxy-4-thiazolyl)-methyl (1R,3S) 2,2-dimethyl-3-[(dihydro-2-oxo-3-(2H)-thienylidene)-methyl]-cyclopropane-1-carboxylate | 2.44 g | CC1([C@@H]([C@@H]1C=C1C(SCC1)=O)C(=O)OCC=1N=C(SC1)OC1=CC=CC=C1)C | C21H21NO4S2
